US06730687B1
Ethyl 3-[5-(1,3-dioxolan-2-yl)-2-methoxyphenyl]-3-oxopropionate
To dehydrated ether (15 mL) was added sodium hydride (940 mg, 23.5 mmol) under cooling with ice and stirring, and following this, diethyl carbonate (1.66 g, 14.1 mmol) was added, which was stirred for 30 minutes at room temperature. Next, 5′-(1,3-dioxolane-2-yl)-2′-methoxyacetophenone (2.08 g, 9.36 mmol), dehydrated tetrahydrofuran (20 mL) and ethanol (0.05 mL) were mixed and added dropwise slowly. After completion of the dropwise addition, the mixture was refluxed for 7 hours. After allowed to stand for cooling, the reaction mixture was poured slowly into a solution of 2 mol/L hydrochloric acid (20 mL) and ethyl acetate (30 mL) under cooling with ice and stirring. After separated the organic layer, the aqueous layer was extracted with ethyl acetate. Respective organic layers were combined, washed with water and saturated brine in sequence, then dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel chromatography (eluate n-hexane:ethyl acetate=3:1 v/v) to obtain 1.44 g (52%) of the title compound as a pale yellow oil.

reactant | sodium hydride | 23.5 mmol, 940 mg | [H-].[Na+]
reactant | diethyl carbonate | 14.1 mmol, 1.66 g | C(OCC)(OCC)=O | C5H10O3
reactant | 5′-(1,3-dioxolane-2-yl)-2′-methoxyacetophenone | 9.36 mmol, 2.08 g | O1C(OCC1)C=1C=CC(=C(C1)C(C)=O)OC | C12H14O4
reactant | hydrochloric acid | 2 mol/L, 20 mL | Cl | ClH
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 0.05 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ether | 15 mL | CCOCC | C4H10O
product | Ethyl 3-[5-(1,3-dioxolan-2-yl)-2-methoxyphenyl]-3-oxopropionate | 1.44 g, 52% | O1C(OCC1)C=1C=CC(=C(C1)C(CC(=O)OCC)=O)OC | C15H18O6
